US06166006
A mixture of 1-(4-nitrobenzyl)phosphorinane-1-oxide (2.25 g) and 10% Pd-C (0.2 g) in ethanol (30 ml) was vigorously stirred under hydrogen atmosphere for 24 hours. The catalyst was filtered off, and the filtrate was concentrated recrystallized from ethanol-diethylether to give 1-(4-aminobenzyl)-phosphorinane-1-oxide (1.5 g) as pale yellow crystals.

reactant | 1-(4-nitrobenzyl)phosphorinane-1-oxide | 2.25 g | [N+](=O)([O-])C1=CC=C(CP2(CCCCC2)=O)C=C1 | C12H16NO3P
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.2 g | [Pd] | Pd
product | 1-(4-aminobenzyl)-phosphorinane-1-oxide | 1.5 g | NC1=CC=C(CP2(CCCCC2)=O)C=C1 | C12H18NOP
